US06939885B2
Synthesis of 4-tert-Butyl-N-[4-chloro-2-(6-methylsulfanyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide
4-tert-Butyl-N-[4-chloro-2-(6-chloro-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide (231 mg, 0.5 mmol) was dissolved in dry THF (5 mL) and treated with sodium thiomethoxide (175 mg, 2.5 mmol) and the mixture was heated at 70° C. for 4 h. The solvent was evaporated and the residue suspended in water (5 mL) and the product was precipitated by the drop wise addition of 3M HCl and purified by HPLC. 1H-NMR (400 MHz, CDCl3): δ 1.19 (s, 9H), 2.60 (s, 3H), 7.21-7.28 (m, 3H), 7.31 (m, 1H), 7.50-7.54 (m, 3H), 7.65 (dd, 1H, J=8.4 Hz, 2.4 Hz), 7.78 (d, 1H, J=8.8 Hz), 8.19 (m, 1H), 9.62 (s, 1H). MS: m/z 476.0 (M++1).

reactant | 4-tert-Butyl-N-[4-chloro-2-(6-chloro-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | 0.5 mmol, 231 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)Cl | C22H20Cl2N2O3S
reactant | sodium thiomethoxide | 2.5 mmol, 175 mg | C[S-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-tert-Butyl-N-[4-chloro-2-(6-methylsulfanyl-pyridine-3-carbonyl)-phenyl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC(=CC1)SC | C23H23ClN2O3S2
